US09303023B2
3-(2-Bromoethyl)-6-methoxy-1-methyl-1H-indole
A flask was charged with NaH (110 mg, 4.60 mmol), MeI (0.39 mL, 6.13 mmol) and THF (1.5 mL). The resulting grey suspension was stirred at rt for 5 min, then a solution of 3-(2-Bromo-ethyl)-6-methoxy-1H-indole (156 mg, 0.61 mmol) in THF (2.5 mL) was added dropwise. After stirring for 18 h at rt, the reaction mixture was concentrated, redissolved in DCM and washed with H2O (3×). The org. layer was dried (MgSO4), filtered and the solvent was removed under reduced pressure to yield the title compound as an yellow oil which was used as such in the next step. LC-MS conditions B: tR=0.94 min, [M+H]+=no ionization.

reactant | NaH | 4.60 mmol, 110 mg | [H-].[Na+]
reactant | MeI | 6.13 mmol, 0.39 mL | CI | CH3I
reactant | 3-(2-Bromo-ethyl)-6-methoxy-1H-indole | 0.61 mmol, 156 mg | BrCCC1=CNC2=CC(=CC=C12)OC | C11H12BrNO
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 3-(2-Bromoethyl)-6-methoxy-1-methyl-1H-indole | BrCCC1=CN(C2=CC(=CC=C12)OC)C | C12H14BrNO
